US07816522B2
After dissolving 3 g of 2-allyl-4-bromo-6-methoxy-phenol [CAS No. 352019-92-2] in 10 ml of DMF, 1.3 g of imidazole and 2 g of chlorotriisopropylsilane were added and the mixture was stirred at 50° C. for 4 hours. Next, 1N hydrochloric acid was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off, and the filtrate was concentrated under reduced pressure to give (2-allyl-4-bromo-6-methoxyphenoxy)triisopropylsilane.

reactant | 2-allyl-4-bromo-6-methoxy-phenol | 3 g | C(C=C)C1=C(C(=CC(=C1)Br)OC)O | C10H11BrO2
reactant | imidazole | 1.3 g | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 2 g | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-allyl-4-bromo-6-methoxyphenoxy)triisopropylsilane | C(C=C)C1=C(O[Si](C(C)C)(C(C)C)C(C)C)C(=CC(=C1)Br)OC | C19H31BrO2Si
